US06297257B1
Synthesis of 1-(3-Cyclopentyloxy-4-methoxy-2-nitro-phenyl)-2-(3,5-dichloro-pyridin-4-yl-methyl)-ethanol
A 2M solution under nitrogen of lithium diisopropylamide in tetrahydrofuran/heptane/ethylbenzene (47 ml, 94.9 mmoles) in dry tetrahydrofuran (100 ml) was added with 3,5-dichloro-4-methyl-pyridine (14.6 g, 90.4 mmoles), obtained as described in example 15, in dry tetrahydrofuran (100 ml), keeping the temperature under −65° C. At the end of the addition the mixture was left under stirring for 1 hour at −75° C., then added with 3-cyciopentyloxy-4-methoxy-2-nitro-benzaldehyde (24 g, 90.4 mmoles), obtained as described in example 28, in dry tetrahydrofuran (100 ml), keeping the temperature under −68° C. At the end of the addition the mixture was left under stirring for 1.5 hours at −72° C., then treated with NH4Cl (200 ml), heated to room temperature, diluted with water. The aqueous phase was twice extracted in ethyl acetate. The organic phases were discoloured with charcoal, anhydrified and dried under vacuum. The residue was tritured with isopropyl ether to give 4.76 g of the title product (yield: 84%).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | tetrahydrofuran heptane ethylbenzene | 94.9 mmoles, 47 ml | O1CCCC1.CCCCCCC.C(C)C1=CC=CC=C1
reactant | 3,5-dichloro-4-methyl-pyridine | 90.4 mmoles, 14.6 g | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 3-cyciopentyloxy-4-methoxy-2-nitro-benzaldehyde | 90.4 mmoles, 24 g | C1(CCCC1)OC=1C(=C(C=O)C=CC1OC)[N+](=O)[O-] | C13H15NO5
reactant | NH4Cl | 200 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(3-Cyclopentyloxy-4-methoxy-2-nitro-phenyl)-2-(3,5-dichloro-pyridin-4-yl-methyl)-ethanol | 4.76 g, yield: 84% | C1(CCCC1)OC=1C(=C(C=CC1OC)C(CCC1=C(C=NC=C1Cl)Cl)O)[N+](=O)[O-] | C20H22Cl2N2O5
